US06380249B1
4-(4-Dibenzylaminophenyl)-2,4-dioxobutanoic acid AIV-3-1
In a manner similar to example AI-2-1, 4-(4-dibenzylaminophenyl)-2,4-dioxobutanoic acid ethyl ester (0.29 g, 0.7 mmol) was hydrolyzed using 0.58 ml 1N LiOH in 5 ml THF to afford 0.237 g (87%) of AIV-3-1 as an orange solid. MP=161-162° C. 1H NMR (400 MHz, CDCl3) δ4.76 (s, 4H), 6.79 (d, 2H, J=9.34 Hz), 6.99 (s, 1H), 7.20 (d, 4H, J=6.78 Hz), 7.30 (t, 2H, J=7.14 Hz), 7.35 (t, 4H, J=7.33 Hz), 7.86 (d, 2H, J=9.15 Hz).

reactant | 4-(4-dibenzylaminophenyl)-2,4-dioxobutanoic acid ethyl ester | 0.7 mmol, 0.29 g | C(C)OC(C(CC(=O)C1=CC=C(C=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C26H25NO4
reactant | LiOH | 1N, 0.58 ml | [Li+].[OH-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(4-Dibenzylaminophenyl)-2,4-dioxobutanoic acid | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)C(CC(C(=O)O)=O)=O)CC1=CC=CC=C1 | C24H21NO4
